US05958924
10.2. 6-amino-4-[2-[4-(thieno[3,2-c]pyridin-4-yl)-1-piperazinyl]ethyl]-2(1H)-quinolone hydrochloride (3:1)
A mixture of 0.35 g (1.35 mmol) of 6-amino-4-(2-chloroethyl)-2(1H)-quinolone hydrochloride, 0.33 g (1.5 mmol) of 4-(1-piperazinyl)thieno[3,2-c]pyridine and 0.17 g (2 mmol) of sodium bicarbonate in 10 ml of dimethylformamide is heated to 60° C. for 24 hours. After cooling to room temperature, the reaction medium is diluted in 50 ml of water and the crude product is extracted with chloroform. The organic phase is dried over sodium sulpbate and concentrated. The crude product is purified by flash chromatography on silica, eluting first with a methanol/ethyl acetate (6.5:93.5) mixture containing traces of triethylamine and then with a methanol/dichloromethane (6.5:93.5) mixture comprising traces of aqueous ammonia.

reactant | 6-amino-4-(2-chloroethyl)-2(1H)-quinolone hydrochloride | 1.35 mmol, 0.35 g | Cl.NC=1C=C2C(=CC(NC2=CC1)=O)CCCl
reactant | 4-(1-piperazinyl)thieno[3,2-c]pyridine | 1.5 mmol, 0.33 g | N1(CCNCC1)C1=NC=CC2=C1C=CS2 | C11H13N3S
reactant | sodium bicarbonate | 2 mmol, 0.17 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 6-amino-4-[2-[4-(thieno[3,2-c]pyridin-4-yl)-1-piperazinyl]ethyl]-2(1H)-quinolone hydrochloride | Cl.NC=1C=C2C(=CC(NC2=CC1)=O)CCN1CCN(CC1)C1=NC=CC2=C1C=CS2 | InChI=1S/C22H23N5OS.ClH/c23-16-1-2-19-18(14-16)15(13-21(28)25-19)4-7-26-8-10-27(11-9-26)22-17-5-12-29-20(17)3-6-24-22;/h1-3,5-6,12-14H,4,7-11,23H2,(H,25,28);1H
